* top8
.tran 1n 5m
Vin in 0 12
M1 in gate1 sw1 0 NMOS W=1 L=1
M2 in gate2 sw2 0 NMOS W=1 L=1
D1 0 sw1 DIODE
D2 0 sw2 DIODE
L1 sw1 out 100u
L2 sw2 out 100u
C1 out 0 100u
Rload out 0 1k
Vgate1 gate1 0 PULSE(0 12 0 1n 1n 2.77777778e-06 1e-05)
Vgate2 gate2 0 PULSE(0 12 1e-06 1n 1n 2.77777778e-06 1e-05)
.model NMOS NMOS(Vto=1 Kp=2 Lambda=0)
.model DIODE D
.probe V(*) I(*)
.end
